US04560799
(a) 3-(n-Dodecylthio)-n-butanal
14.02 Grams of crotonaldehyde (0.20 mole) is added dropwise over a 40-minute period at 60° to 65° C. to a solution of 41.2 grams of n-dodecyl mercaptan (0.20 moles) and 0.66 grams of triethylamine after which heating and stirring are continued at 85° C. for 1.5 hours. Analysis of the reaction mixture indicates that the reaction is then substantially complete. The product is isolated as a light yellow liquid by stripping off the volatiles.

reactant | crotonaldehyde | 0.20 mole | C(\C=C\C)=O | C4H6O
reactant | n-dodecyl mercaptan | 0.20 moles, 41.2 grams | C(CCCCCCCCCCC)S | C12H26S
solvent | triethylamine | 0.66 grams | C(C)N(CC)CC | C6H15N
product | 3-(n-Dodecylthio)-n-butanal | C(CCCCCCCCCCC)SC(CC=O)C | C16H32OS
